US04202899
8-Ethyl-5-(methylamino)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester
3.5 g of 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester (0.01 mol) and 3.5 g of methylamine are heated in 50 ml of alcohol in an autoclave for 10 hours at 100°. The solvent is removed in vacuo and the residue treated with water, filtered off and recrystallized from butyl alcohol, yield 2.9 g (86%); m.p. 321°-322°.

reactant | 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | 0.01 mol, 3.5 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=CC2C(=O)OCC | C15H13ClN6O2
reactant | methylamine | 3.5 g | CN | CH5N
product | 8-Ethyl-5-(methylamino)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | C(C)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=CC3C(=O)OCC)NC | C16H17N7O2
